US07223791B2
A mixture of benzyl 2-benzyloxy-5-[5-(4-trifluromethylphenyl)-2-furyl]benzoate (2.64 g), 5% palladium on carbon (2.6 g), tetrahydrofuran (50 ml) and methanol (50 ml) was stirred under a hydrogen atmosphere at normal pressure and room temperature for 30 min. Palladium on carbon was removed by filtration, and the filtrate was concentrated. The residue was recrystallized from ethanol to give 5-[5-(4-trifluoromethylphenyl)-2-furyl]salicylic acid (1.07 g, yield 62%) as a colorless crystalline powder. melting point: 272–273° C.

reactant | benzyl 2-benzyloxy-5-[5-(4-trifluromethylphenyl)-2-furyl]benzoate | 2.64 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C=1OC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H23F3O4
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 2.6 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 5-[5-(4-trifluoromethylphenyl)-2-furyl]salicylic acid | 1.07 g, yield 62% | FC(C1=CC=C(C=C1)C1=CC=C(O1)C1=CC=C(C(C(=O)O)=C1)O)(F)F | C18H11F3O4
